US09079827B2
Production of N-(3-chloro-2-fluorophenyl)-N-methylbenzamide
Into toluene (60 g) were added 85% potassium hydroxide (2.8 g, 0.05 mol) and 10.0 g (0.40 mol) of N-(3-chloro-2-fluorophenyl)benzamide obtained above. While the reaction mixture was heated at reflux, 6.1 g (0.05 mol) of dimethyl sulfate was added dropwise. The reaction was conducted with a dean stark trap to remove the water generated. After the dropwise addition was completed, the mixture was stirred for 1 hour and allowed to cool to room temperature. The resultant was mixed with 20 g of a 5% aqueous sodium hydroxide solution and stirred for 1 hour. The mixture was allowed to separate to give a toluene layer, which was washed with 40 g of water. The toluene layer was concentrated under reduced pressure, and the resultant residue was washed with n-hexane to obtain 9.97 g of the title compound (yield: 94%) as a white solid.

reactant | potassium hydroxide | 0.05 mol, 2.8 g | [OH-].[K+]
reactant | N-(3-chloro-2-fluorophenyl)benzamide | 0.40 mol, 10.0 g | ClC=1C(=C(C=CC1)NC(C1=CC=CC=C1)=O)F | C13H9ClFNO
reactant | dimethyl sulfate | 0.05 mol, 6.1 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | toluene | 60 g | C1(=CC=CC=C1)C | C7H8
product | N-(3-chloro-2-fluorophenyl)-N-methylbenzamide | 9.97 g, yield: 94% | ClC=1C(=C(C=CC1)N(C(C1=CC=CC=C1)=O)C)F | C14H11ClFNO
